datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],46.35872
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:4])([H:5])[H:6].[O:3]([H:11])[H:12],90.8706
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20],-17.1544
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:11])([H:5])[H:6].[H:10][C:12]([H:13])([H:14])[H:15],0.0
[C:0]([C:1]([O:2][O:3][H:8])([H:6])[H:7])([H:4])[H:5]>>[C:0]1([H:4])([H:5])[C:1]([H:6])([H:7])[O:2]1.[O:3][H:8],86.44144
[C:0](=[C:1]1[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1=[C:6]([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]1=[C:6]([H:14])[H:15])([H:7])[H:8].[H:10],187.0248
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:4])[H:7])[H:6])[H:5],268.194
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9](=[O:10])[O:11][O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:12][O:11][C:9]([C:8]([H:13])([H:14])[H:15])=[O:10],85.60464
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([S:12][H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[C:10](=[C:11]([S:12])[H:15])([H:13])[H:14],19.2464
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:9])([H:7])[H:8],60.1241
[O:0]=[S:1]=[O:2].[O:3][H:4]>>[O:0][S:1](=[O:2])[O:3][H:4],0.640152
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])[H:7])([H:5])[H:6],49.3294
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([S:15][H:25])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:22])([H:23])[H:24])([S:15][H:25])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30],15.8992
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([S:16][H:27])([c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:26])[H:7])([H:5])[H:6].[C:14]([C:15]([S:16][H:27])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:23])([H:24])[H:25],24.6856
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([H:27])([H:28])[H:29])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:23]([C:24]([H:27])([H:28])[H:29])([H:25])[H:26])[H:14])[H:13])([H:11])[H:12],25.355
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24])[H:8])([H:6])[H:7],43.2207
[C:0]([S:1][S:2][C:3]([C:4]([H:9])([H:10])[H:11])([H:7])[H:8])([H:5])[H:6]>>[C:0]([S:1])([S:2][C:3]([C:4]([H:9])([H:10])[H:11])([H:7])[H:8])([H:5])[H:6],133.59512
